US07737152B2
2-Chloro-6-(4-acetamidophenyl-oxy)-pyrazine, CJS 506(A)
Using Method DD with 2,6-dichloropyrazine (200 mg, 1.34 mmol) and 4-acetamidophenol (202 mg, 1.49 mmol), and crystallisation in AcOEt, the title compound was obtained (327 mg). Yield: 92%. 1H NMR (250 MHz, DMSO-d6) δ 2.12 (s, 3H, CH3—NH), 7.25 (d, 2H, Harom 3+5, J=8.9 Hz), 7.71 (d, 2H, Harom 2+6, J=8.9 Hz), 8.55 (s, 1H, HPz 5), 8.57 (s, 1H, HPz 3), 10.10 (s, 1H, NH). m/z: 264.0 [(M+H)+, calcd for C12H10ClN3O2 263.0].

reactant | 2,6-dichloropyrazine | 1.34 mmol, 200 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 4-acetamidophenol | 1.49 mmol, 202 mg | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-Chloro-6-(4-acetamidophenyl-oxy)-pyrazine | Yield: 92% | ClC1=NC(=CN=C1)OC1=CC=C(C=C1)NC(C)=O | C12H10ClN3O2
